US20010049371A1
3-(3-Ethoxy-4-methoxyphenyl)-N-hydroxy-3-(1,3-dioxo-2,3 -dihydro- 1H-benzo[f]-isoindol-2-yl)propionamide was prepared by the procedure of Example 1 from 3-(3-ethoxy-4-methoxyphenyl)-3-(1,3-dioxo-2,3-dihydro-1H-benzo[f]isoindol-2-yl)propanoic acid (2.00 g, 4.77 mmol), N,N′-carbonyldiimidazole (889 mg, 5.48 mmol) and hydroxylamine hydrochloride (419 mg, 6.03 mmol) in tetrahydrofuran (8 mL) to afford 3-(3-ethoxy-4-methoxyphenyl)-N-hydroxy-3-(1,3-dioxo-2,3-dihydro-1H-benzo[f]isoindol-2-yl)propionamide as an off-white solid (1.6 g, 77% yield): mp, 197.0-199.0° C.; 1H NMR (DMSO-d6) δ1.33 (t, J=7.0 Hz, 3H, CH3), 3.11-3.28 (m, 2H, CH2), 3.73 (s, 3H, CH3), 4.00 (q, J=7.0 Hz, 2H, CH2), 5.79 (t, J=7.8 Hz, 1H, NCH), 6.87-7.09 (m, 2H, Ar), 7.10 (br s, 1H, Ar), 7.74-7.78 (m, 2H, Ar), 8.23-8.27 (m, 2H, Ar), 8.49 (br s, 1H, Ar), 8.85 (br s, 1H OH), 10.66 (br s, 1H, NH); 13C NMR (DMSO-d6) δ14.69, 34.27, 50.42, 55.45, 63.73, 111.73, 112.45, 119.82, 124.50, 127.04, 129.28, 130.26, 131.20, 135.05, 147.69, 148.58, 166.07, 167.30; Anal Calcd for C24H22N2O6: C, 66.35; H. 5.10; N, 6.45. Found: C, 66.22; H, 5.24; N, 6.08.

reactant | 3-(3-ethoxy-4-methoxyphenyl)-3-(1,3-dioxo-2,3-dihydro-1H-benzo[f]isoindol-2-yl)propanoic acid | 4.77 mmol, 2.00 g | C(C)OC=1C=C(C=CC1OC)C(CC(=O)O)N1C(C=2C=C3C(=CC2C1=O)C=CC=C3)=O | C24H21NO6
reactant | hydroxylamine hydrochloride | 6.03 mmol, 419 mg | Cl.NO
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 3-(3-ethoxy-4-methoxyphenyl)-N-hydroxy-3-(1,3-dioxo-2,3-dihydro-1H-benzo[f]isoindol-2-yl)propionamide | 1.6 g, 77% yield | C(C)OC=1C=C(C=CC1OC)C(CC(=O)NO)N1C(C=2C=C3C(=CC2C1=O)C=CC=C3)=O | C24H22N2O6
